US08048878B2
Synthesis of (6R*,9aS*)-6-(4-methoxyphenyl)-3,6,7,8,9,9a-hexahydroquinolizin-4-one
A solution of 1-[(2R*,6S*)-2-(4-methoxyphenyl)-6-vinylpiperidin-1-yl]-3-buten-1-one (100 mg) and tricyclohexylphosphine[1,3-bis(2,4,6-trimethylphenyl)-4,5-dihydroimidazol-2-ylidene][benzylidene]ruthenium (IV) dichloride (30 mg) in methylene chloride (50 mL) was heated under reflux for 1.5 hours. The reaction solution was left to cool to room temperature and then concentrated. The residue was purified by silica gel column chromatography (elution solvent: heptane:ethyl acetate=4:1->ethyl acetate) to obtain 28 mg of the title compound. The property values of the compound are as follows.

reactant | 1-[(2R*,6S*)-2-(4-methoxyphenyl)-6-vinylpiperidin-1-yl]-3-buten-1-one | 100 mg | COC1=CC=C(C=C1)[C@@H]1N([C@@H](CCC1)C=C)C(CC=C)=O | C18H23NO2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | tricyclohexylphosphine[1,3-bis(2,4,6-trimethylphenyl)-4,5-dihydroimidazol-2-ylidene][benzylidene]ruthenium (IV) dichloride | 30 mg | CC1=CC(=C(C(=C1)C)N2CCN([CH-]2)C3=C(C=C(C=C3C)C)C)C.C1CCC(CC1)[PH+](C2CCCCC2)C3CCCCC3.C1=CC=C(C=C1)C=[Ru](Cl)Cl
product | (6R*,9aS*)-6-(4-methoxyphenyl)-3,6,7,8,9,9a-hexahydroquinolizin-4-one | 28 mg | COC1=CC=C(C=C1)[C@@H]1N2C(CC=C[C@@H]2CCC1)=O | C16H19NO2
